US06087380
1-Methyl-2-[N-[4-(N-ethoxycarbonylamidino)phenyl]-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide
Prepared analogously to Example 90 from 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide-hydrochloride and ethyl chloroformate. Yield: 62% of theory, C30H32N6O5 (556.6) Rf value: 0.51 (silica gel; dichloromethane/ethanol=19:1) ##EQU63##

reactant | 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide-hydrochloride | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OC
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 1-Methyl-2-[N-[4-(N-ethoxycarbonylamidino)phenyl]-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide | Yield: 62% | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(NC(=O)OCC)=N)C)C=C1)CCC(=O)OC | C30H32N6O5
